US08703768B2
Step 3: 3-Amino-6-isobutylpyrazine-2-carboxylic acid methyl ester
To a solution of 3-(bis(tert-butoxycarbonyl)amino)-6-isobutylpyrazine-2-carboxylic acid methyl ester (201 mg, 442 μmol) in dichloromethane (4 mL) was added trifluoroacetic acid (511 μL, 6.63 mmol) at room temperature. The mixture was stirred at ambient temperature for 3 h and the volatiles were evaporated. The residue was dissolved in dichloromethane (50 mL) and extracted with sodium carbonate. The aqueous phase was washed with dichloromethane and the organic layers were dried and evaporated. The product was obtained after silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (88 mg, 95%).

reactant | 3-(bis(tert-butoxycarbonyl)amino)-6-isobutylpyrazine-2-carboxylic acid methyl ester | 442 μmol, 201 mg | COC(=O)C1=NC(=CN=C1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC(C)C | C20H31N3O6
reactant | trifluoroacetic acid | 6.63 mmol, 511 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | heptane ethyl acetate | 88 mg | CCCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-Amino-6-isobutylpyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CN=C1N)CC(C)C | C10H15N3O2
